US06130187
Preparation of 3-(4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 1)
7.0 g (17 mmol) of 3-(2-carboxy-4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil and 5.0 g (79 mmol) of copper powder, were suspended in 50 ml of quinoline, followed by stirring at 200° C. for 1 hour. After completion of the reaction, the reaction solution was subjected to filtration. The filtrate was extracted with ethyl acetate. The organic layer was washed sequentially with a 10% hydrochloric acid aqueous solution and water and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. Then, the obtained residue was purified by silica gel column chromatography, to obtain 3.5 g (yield: 56%) of the desired product as white crystals. Melting point: 127-128° C.

reactant | 3-(2-carboxy-4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 17 mmol, 7.0 g | C(=O)(O)C=1OC2=C(C1)C(=CC(=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F)Cl | C15H7ClF4N2O5
solvent | quinoline | 50 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
catalyst | copper | 79 mmol, 5.0 g | [Cu] | Cu
product | 3-(4-chloro-6-fluorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 3.5 g, yield: 56% | ClC1=CC(=C(C2=C1C=CO2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O)F | C14H7ClF4N2O3
